US04740622
Preparation of 4,5-dinitro-2-(β-hydroxyethoxy)phenol
0.2 mol (13.2 g) of potassium hydroxide pellets (85%) is added to 100 ml of ethylene glycol which has been heated beforehand at 50° C. 0.1 mol (21.2 g) of 4,5-methylenedioxy-1,2-dinitrobenzene is added in a single portion to this solution. The heating is maintained for 2 hours.

reactant | potassium hydroxide | 0.2 mol, 13.2 g | [OH-].[K+]
reactant | 4,5-methylenedioxy-1,2-dinitrobenzene | 0.1 mol, 21.2 g | C1OC2=CC(=C(C=C2O1)[N+](=O)[O-])[N+](=O)[O-] | C7H4N2O6
reactant | ethylene glycol | 100 ml | C(CO)O | C2H6O2
product | 4,5-dinitro-2-(β-hydroxyethoxy)phenol | [N+](=O)([O-])C1=CC(=C(C=C1[N+](=O)[O-])O)OCCO | C8H8N2O7
